US05143920
Ethyl 2-butyryl-3-(4-methoxyphenylamino)acrylate (78 g) was added dropwise to boiling diphenyl ether (600 ml) and heating continued under reflux for 45 minutes. When cool, the mixture was diluted with petrol and the precipitate was filtered off, washed with petrol and dried to give 3-butyryl-6-methoxy-4(1H)-quinolone (24 g, 49%) as a light tan solid, m.p. 252°-254°.

reactant | Ethyl 2-butyryl-3-(4-methoxyphenylamino)acrylate | 78 g | C(CCC)(=O)C(C(=O)OCC)=CNC1=CC=C(C=C1)OC | C16H21NO4
solvent | diphenyl ether | 600 ml | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
product | 3-butyryl-6-methoxy-4(1H)-quinolone | 24 g, 49% | C(CCC)(=O)C1=CNC2=CC=C(C=C2C1=O)OC | C14H15NO3
